US07524565B2
Glycidyl acetoacetate was prepared according to the method of Witzeman and Nottingham (J. Org. Chem, 1991, 56, 1713). Glycidol (Dixie Chemical Company, Pasadena, Tex.), 296 g, t-butyl acetoacetate, 632.8 g, and toluene, 500 ml, were mixed in a 1-liter reactor equipped with mechanical stirrer, thermocouple, condenser and nitrogen inlet. The reactor contents were heated to 110° C. and held at that temperature for 30 minutes. The reactor was then fitted with a distillation head and the toluene/t-butanol azeotrope was distilled from the reactor over 2 hours under moderate nitrogen flow. Peak temperature reached in the reactor was 120° C. After 4 hours total time, the reaction mixture was cooled and stripped on a rotary evaporator at 70° C. for 2 hours. The yellow liquid product was analyzed by proton NMR. Essentially quantitative conversion of glycidol to glycidyl acetoacetate was confirmed.

reactant | Glycidol | C1C(O1)CO | C3H6O2
reactant | t-butyl acetoacetate | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Glycidyl acetoacetate | C(CC(=O)C)(=O)OCC1CO1 | C7H10O4
